### PR TITLE
Add `statInfoFun` and related lemmas

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add `ByParts.lean` file, containing the statement of the intrgration by parts for the Riemann-Stieltjes integral
- Add `StatInfoFun.lean`
- Add definition of `statInfoFun` along with some API
- Add definition of `curvatureMeasure`
- Add the generalized Taylor formula `generalized_taylor`, along with its specialized version with the `statInfoFun`
- Add the integral representation for the f-divergences for the absolutely continuous case `fDiv_eq_integral_fDiv_statInfoFun_curvatureMeasure_of_absolutelyContinuous`

Depends on #86.

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/Stieltjes.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
+import Mathlib.MeasureTheory.Measure.Stieltjes
+
+--The content of this file has beed PRed to mathlib, see #14115. it is now merged, the next time we bump we can remove this file
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Stieltjes.lean]: We should be able to remove that file now, right?

File: TestingLowerBounds/StatInfoFun.lean [hunk 2]
```diff
@@ -0,0 +1,435 @@
+/-
+Copyright (c) 2024 Rémy Degenne. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rémy Degenne, Lorenzo Luccioli
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: Since you are the one creating the file, you are the copyright holder
```suggestion
Copyright (c) 2024 Lorenzo Luccioli. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Rémy Degenne, Lorenzo Luccioli
```

File: TestingLowerBounds/StatInfoFun.lean [hunk 3]
```diff
@@ -0,0 +1,435 @@
...
+the right derivative of the function as a CDF. -/
+noncomputable
+def curvatureMeasure (f : ℝ → ℝ) (hf : ConvexOn ℝ univ f) : Measure ℝ :=
+  hf.rightDerivStieltjes.measure
+
+instance (f : ℝ → ℝ) (hf : ConvexOn ℝ univ f) : IsLocallyFiniteMeasure (curvatureMeasure f hf) := by
+  unfold curvatureMeasure
+  infer_instance
+
+lemma generalized_taylor (hf : ConvexOn ℝ univ f) (hf_cont : Continuous f) {a b : ℝ} :
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: Maybe `convex_taylor` to be slightly more specific?
Also, can you add a docstring to that lemma? You could also change `lemma` to `theorem`, to indicate that this is an important result.

File: TestingLowerBounds/StatInfoFun.lean [hunk 4]
```diff
@@ -0,0 +1,435 @@
...
+  rw [h]
+  rcases le_total t 1 with (ht | ht)
+  · simp_rw [statInfoFun_of_one_of_right_le_one ht, integral_indicator measurableSet_Ioc,
+      intervalIntegral.integral_of_ge ht, ← integral_neg, neg_sub]
+  · simp_rw [statInfoFun_of_one_of_one_le_right ht, integral_indicator measurableSet_Ioc,
+      intervalIntegral.integral_of_le ht]
+
+-- TODO: think about the case when the function is not integrable (`h_int`), can we prove that in this case the rhs is also not integrable?
+
+lemma fDiv_eq_integral_fDiv_statInfoFun_curvatureMeasure_of_absolutelyContinuous
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: Let's shorten the name a bit.
```suggestion
lemma fDiv_eq_integral_fDiv_statInfoFun_of_absolutelyContinuous
```

File: TestingLowerBounds/StatInfoFun.lean [hunk 5]
```diff
@@ -0,0 +1,435 @@
...
+    [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+    (hf_cvx : ConvexOn ℝ univ f) (hf_cont : Continuous f) (hf_one : f 1 = 0)
+    (hfderiv_one : rightDeriv f 1 = 0) (h_int : Integrable (fun x ↦ f ((∂μ/∂ν) x).toReal) ν)
+    (h_ac : μ ≪ ν) :
+    fDiv f μ ν = ∫ x, (fDiv (statInfoFun 1 x) μ ν).toReal ∂(curvatureMeasure f hf_cvx) := by
+  have h_int' (γ : ℝ) : Integrable (fun x ↦ statInfoFun 1 γ ((∂μ/∂ν) x).toReal) ν := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: Turn that `have` into a lemma?

File: TestingLowerBounds/StatInfoFun.lean [hunk 6]
```diff
@@ -0,0 +1,442 @@
...
+    (μ ν : Measure 𝒳) [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
+    Integrable (fun x ↦ statInfoFun β γ ((∂μ/∂ν) x).toReal) ν := by
+  refine integrable_f_rnDeriv_of_derivAtTop_ne_top _ _
+    measurable_statInfoFun3.stronglyMeasurable ?_ ?_
+  · exact (convexOn_statInfoFun β γ).subset (fun _ _ ↦ trivial) (convex_Ici 0)
+  · rcases le_total β 0 with (hβ | hβ) <;> by_cases hγ : γ ≤ β
+    · exact derivAtTop_statInfoFun_of_nonpos_of_le hβ hγ ▸ EReal.coe_ne_top _
+    · exact derivAtTop_statInfoFun_of_nonpos_of_gt hβ (lt_of_not_ge hγ) ▸ EReal.coe_ne_top _
+    · exact derivAtTop_statInfoFun_of_nonneg_of_le hβ hγ ▸ EReal.zero_ne_top
+    · exact derivAtTop_statInfoFun_of_nonneg_of_gt hβ (lt_of_not_ge hγ) ▸ EReal.coe_ne_top _
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: That could be an independent lemma: derivAtTop of statInfoFun is not top.

File: TestingLowerBounds/StatInfoFun.lean [hunk 7]
```diff
@@ -0,0 +1,444 @@
...
+  exact Tendsto.div_atTop tendsto_const_nhds fun _ a ↦ a
+
+lemma tendsto_statInfoFun_div_at_top_of_neg_of_gt (hβ : β < 0) (hγ : γ > β) :
+    Tendsto (fun x ↦ statInfoFun β γ x / x) atTop (𝓝 0) := by
+  refine tendsto_atTop_of_eventually_const (fun x hx ↦ ?_) (i₀ := γ / β)
+  rw [statInfoFun_of_gt hγ, div_eq_zero_iff]
+  refine Or.inl <| max_eq_left_iff.mpr <| tsub_nonpos.mpr <| (div_le_iff_of_neg' hβ).mp hx
+
+lemma derivAtTop_statInfoFun_of_nonneg_of_le (hβ : 0 ≤ β) (hγ : γ ≤ β) :
+    derivAtTop (fun x ↦ statInfoFun β γ x) = 0 := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean:169]: Here and in the next 4 lemmas, you write `(fun x ↦ statInfoFun β γ x)` instead of `(statInfoFun β γ)`. Is there a reason?
```suggestion
    derivAtTop (statInfoFun β γ) = 0 := by
```

**Review by RemyDegenne — APPROVED** [review]
Last comment. You can merge once it's resolved.

File: TestingLowerBounds/StatInfoFun.lean (hunk 7 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/StatInfoFun.lean:169]: If I state it as `derivAtTop (statInfoFun β γ)` then the `simp` below does not close the goal, this is because the lemma `statInfoFun_of_zero` is stated with the explicit variables like this:

```lean
@[simp]
lemma statInfoFun_of_zero : statInfoFun 0 γ x = 0 := by simp_all [statInfoFun, le_of_lt]
```

I tried to change it to:

```lean
@[simp]
lemma statInfoFun_of_zero : statInfoFun 0 = 0 := by ext; simp_all [statInfoFun, le_of_lt]
```

But this still does not work completely, since I have to give an explicit `exact` after the `simp`:

```lean
simp only [statInfoFun_of_zero, Pi.zero_apply, EReal.coe_zero]
exact derivAtTop_const 0
```

I also tried to give the lemma `derivAtTop_const` inside the simp and to use `simpa` but it did not work.
